US04781927
To a solution of 5 g N-Cbz-D-serine 2,2,5-trimethylcyclopentyl ester in 50 ml dry CH2Cl2 is added 2 equivalents of Ag2O and 2 equivalents of methyl iodide. After stirring for 2 hours, the mixture is filtered and concentrated to yield the methyl ether of N-Cbz-D-serine 2,2,5-trimethylcyclopentyl ester. 3 g of N-Cbz-D-serine methyl ether 2,2,5-trimethylcyclopentyl ester is hydrogenated over 0.5 g 10% Pd/C in 100 ml CH3OH. Upon completion, the mixture is filtered and concentrated to yield 3-methoxy-D-alanine 2,2,5-trimethylcyclopentyl ester. To a magnetically stirred solution of 2 g of 3-methoxy-D-alanine 2,2,5-trimethylcyclopentyl ester in 100 ml DMF at 0° C. is added 1 equivalent of N-Cbz-L-aspartic acid-β-benzyl ester followed by addition of 1 equivalent each of Cu(II) chloride and dicyclohexylcarbodiimide. After 18 hours the mixture is poured into 200 ml 0.1N HCl and extracted with 300 ml ethyl acetate. The organic phase is washed with saturated NaHCO3, and H2O, dried over MgSO4, filtered and concentrated to an oil that is reconstituted in 50 ml CH3OH and hydrogenated over 0.5 g 5% Pd/C. Filtration following by concentration yields L-aspartyl-D-serine 2,2,5-trimethylcyclopentyl ester methyl ether.

reactant | N-Cbz-D-serine methyl ether 2,2,5-trimethylcyclopentyl ester | 3 g | CC1(C(C(CC1)C)OC([C@H](NC(=O)OCC1=CC=CC=C1)COC)=O)C | C20H29NO5
solvent | CH3OH | 100 ml | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 3-methoxy-D-alanine 2,2,5-trimethylcyclopentyl ester | CC1(C(C(CC1)C)OC([C@H](N)COC)=O)C | C12H23NO3
